US06977255B2
2-(4-morpholinyl)-8-trifluoromethanesulfonyloxy-4H-1-benzopyran-4-one
Condensation of the lithium enolate of N-acetyl morpholine (2.2 ml) with methyl 2-hydroxy-3-trifluoromethanesulfonyloxy-benzoate (3.56 g, 11.9 mmol) yielded the salicylacatamide (3.6 g). Cyclodehydration of the product with trifluormethanesulfonic anhydride (5.5 ml) as described above yielded the product as a colourless solid (1.21 g).

reactant | N-acetyl morpholine | 2.2 ml | C(C)(=O)N1CCOCC1 | C6H11NO2
reactant | methyl 2-hydroxy-3-trifluoromethanesulfonyloxy-benzoate | 11.9 mmol, 3.56 g | OC1=C(C(=O)OC)C=CC=C1OS(=O)(=O)C(F)(F)F | C9H7F3O6S
reactant | trifluormethanesulfonic anhydride | 5.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2-(4-morpholinyl)-8-trifluoromethanesulfonyloxy-4H-1-benzopyran-4-one | 1.21 g | N1(CCOCC1)C=1OC2=C(C(C1)=O)C=CC=C2OS(=O)(=O)C(F)(F)F | C14H12F3NO6S
